US06462038B1
Quinolinone compounds (e.g., Structure 16) may be converted into corresponding quinoline-diones (e.g., Structure 24), hydroxy quinolinones (e.g., Structure 25), and quinoline-thiones (e.g., Structures 26 and 27) by the processes shown in Scheme V. The process of Scheme V begins with the deprotection of the imino ether of Structure 16 by treatment with a mineral acid, for example, hydrochloric acid, to afford a quinoline-dione compound of Structure 24. Alternatively, this transformation can be carried out with a Lewis acid, for example, boron trichloride, to afford a quinoline-dione compound (e.g., Structure 24). See T. Sala, et al., supra. A quinoline-dione compound (e.g., Structure 24) can be converted to a hydroxy quinoline compound (e.g., Structure 25) by addition of an organometallic reagent, for example, methyl lithium, which affords a hydroxy quinoline compound (Structure 25).

reactant | Quinolinone | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
reactant | imino ether | N=O | HNO
reactant | hydrochloric acid | Cl | ClH
product | quinoline-dione | N=1C(C(C=C2C=CC=CC12)=O)=O | C9H5NO2
